US05446189
A mixture of 4.0 g (0.029 mol) of 3-nitrophenol, 10.5 g (0.032 mol) of 1-bromooctadecane and 6.0 g (0.043 mol) of anhydrous potassium carbonate in 75 ml of anhydrous DMF was stirred and heated at 75° for 23 hours. The solvent was removed at reduced pressure and water was added to the residue. The product was extracted with ether and the dried extract was concentrated at reduced pressure to a solid which was purified by HPLCusing 15% methylene chloride-hexane to give 9.0 g (80% yield) of 3-(octadecyloxy)nitrobenzene.

reactant | 3-nitrophenol | 0.029 mol, 4.0 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 1-bromooctadecane | 0.032 mol, 10.5 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | potassium carbonate | 0.043 mol, 6.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 3-(octadecyloxy)nitrobenzene | 9.0 g, 80% yield | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C=CC1)[N+](=O)[O-] | C24H41NO3
